Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"Having dark thoughts," depression 

 
Major Surgical or Invasive Procedure:
ECT - bilateral
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of major 
depression vs. bipolar disorder and two prior suicide attempts 
who presented to the ED yesterday with suicidal ideation and 
depression after being off psychiatric medications for 2+ weeks 
due to an increase in his copays a month ago. Because of this he 
started taking smaller doses of his remaining supply of Abilify 
(5 mg instead of 30 mg) to make it last longer. He ran out of 
Abilify about two weeks ago and ran out of Klonopin and Ambien 
about three weeks ago.  He has continued to take Celexa. Since 
changing the dose of his Abilify, he has noticed a gradual 
worsening of his mood.  About a week ago, he started having 
"dark thoughts" -- feeling like he wanted to end his life and 
wishing that "God would strike me down."  He denies having a 
specific plan.  He felt very nervous that he would act on these
thoughts, to the point that he felt somewhat nauseous and had 
trouble sleeping and eating.  He waited to contact his 
psychiatrist until ___ morning because he did not want to 
wait for a bed in the ED through the weekend.  He contacted his 
psychiatrist, Dr. ___ thing ___ AM (___), and Dr. 
___ him to go to the ED, which he did yesterday.  
On arrival to the ED yesterday, he rated his SI as ___ and 
denied having a plan.  He denied HI.

Dr. ___ commented in a note in ___ on the patient's 
psychiatric decline, which he felt was precipitated by inability 
to access ECT (which had been very effective for him in the 
past) and medications due to cost.  The patient thinks that he 
was doing "very well" five weeks ago when he was taking all his 
medications.  However, he has significant chronic stressors, as 
he is the primary caretaker for his elderly parents.  His father 
has been undergoing treatment for prostate cancer, and his 
mother was diagnosed with Alzheimer's three weeks ago.

On arrival to the inpatient unit, the patient describes "feeling 
safe and relieved" to be in an inpatient setting.  He endorses 
depressed mood, lack of energy, decreased motivation, and 
decreased sleep since stopping Ambien and Abilify.  He has an 
abnormal sleeping pattern at baseline, usually staying up all 
night wanting TV, falling asleep in the early AM and then waking 
up throughout the day, but he states that his sleep has been 
worse while off medications.  He has not had any visual/auditory 
hallucinations and his appetite is unchanged except as above.
 
Past Medical History:
Past Psych History:
Diagnosed with major depression in ___. Has since been
hospitalized "a few times." His first hospitalization occured in
___ after overdosing on a bottle of klonopin leading to a 3 
week
hospitalization. His most recent hospitalization was over the
___ and lasted 10 days. He has had two suicide
attempts in the past, in ___ and ___ both through medication
overdose. The first time he was found by his sister and the
second time he got scared and told his roommate what had
happened. In the past, he was on welbutrin for about ___ years and
was switched when his doctor decided it was not working well. He
has also been on ECT which he found very helpful but which was
stopped due to the financial burden (after receiving a $1000 
___
for anesthesia he stopped the treatments). His last treatment 
was
___. He asserts that he was diagnosed with bipolar disorder 
in
___. First mention of bipolar disorder in OMR was ___. 

No previous history of seizures or head trauma. 

PMH: Psoriasis
 
Social History:
___
Family History:
His oldest sister suffers from depression and takes medications 
though the patient is unaware what she takes. She has never had 
ECT, hospitalizations or suicide attempts. She is disabeled 
after an accident left her with brain damage. 

 
Physical Exam:
On Admission:
VS:  BP: 112/80  HR: 90  Temp: 97.0  RR: 16  O2 sat: 98%  

MENTAL STATUS EXAM:
--appearance: middle-aged Caucasian male, disheveled but not 
malodorous, unshaven, with fair eye contact
--behavior/attitude: cooperative with interview, forthcoming 
about emotional state; mild psychomotor slowing
--speech: decreased volume, rate, and prosody, without 
dysarthria or aphasia
--mood (in patient's words): "relieved" 
--affect: constricted to dysthymic; appropriate to the context
--thought content: talks about desire for psychiatric treatment, 
financial difficulties, being caretaker for elderly parents 
--thought process: linear, logical, goal-directed
--perception: without AH, VH, delusions, or paranoia
--SI/HI: significant for SI without intent or plan; no HI; 
contracts for safety on unit
--insight: fair as evidenced by desire for complaince with 
psychiatric treatment, ability to recognize that symptoms may 
worsen and result in another suicide attempt
--judgment: fair as evidenced by contacting treaters for help 
with symptoms and self-presenting to ED, but limited in that he 
decreased medication doses and delayed contacting psychiatrist 
due to weekend
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: able to recite MOYB
--memory (ball, chair, purple): immediate intact and remote 
intact
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: provided accurate interpretations of "look before 
leap," "apple falling from tree"
--similarities/analogies:  "watch to ruler" - "both have numbers 
one through twelve"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. ___ normal. 
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses
Abdomen: Soft, nontender, nondistended, normal bowel sounds.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.

Neurological:
*Cranial Nerves-
I: Not tested
II: Pupils equally round and reactive to light bilaterally.
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline.
*Motor- Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. 
*Sensation- Intact to light touch throughout.
*Reflexes- 1+ and symmetric in upper and lower extremities
*Coordination- Normal on finger-nose-finger, rapid alternating 
movements, heel to shin.
 
Pertinent Results:
___ 09:30AM BLOOD WBC-8.4 RBC-5.22 Hgb-16.4 Hct-46.3 MCV-89 
MCH-31.5 MCHC-35.5* RDW-13.1 Plt ___
___ 09:30AM BLOOD Glucose-132* UreaN-9 Creat-1.0 Na-140 
K-3.7 Cl-106 HCO3-24 AnGap-14
___ 07:16PM BLOOD ALT-25 AST-21 AlkPhos-57 TotBili-0.5
___ 09:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:16PM BLOOD TSH-0.36
___ 09:30AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 09:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-POS amphetm-NEG mthdone-NEG
 
Brief Hospital Course:
Patient is a ___ year old man with severe, recurrent major 
depressive disorder followed per Dr. ___ as outpatient.  Due 
to financial issues, he was not able to afford his medications 
including Abilify and Celexa for the past two weeks.  In the 
setting of stopping medication and recent diagnosis of 
Alzheimer's disease for his mother, he had ___ worsening 
depression and passive ideation of wanting to end it all 
although no specific plans citing his religious beliefs.  Given 
the worsening mood, patient came into the hospital.

He was admitted on ___ and exam showed a severely depressed 
man.  Due to his insurance issues, unable to restart Abilify 
right away since it was not clear that it can be continued as 
outpatient hence only Celexa was restarted.  Also, patient had 
excellent response to bilateral ECT in the past hence Dr. 
___ in addition to medicine and anesthesia consults 
were placed and patient was able to start bilateral ECT on HD#2.

Patient had clinical and significant improvement of mood and 
abatement of SI with ECT.  Adjunctive therapy was discussed with 
Dr. ___ Wellbutrin but Dr. ___ not feel that 
Wellbutrin will be an effective adjunctive therapy.

 
Medications on Admission:
citalopram 20 mg daily (not for 3 days)
abilify 30 mg daily (not for past 2 weeks)
klonopin (not for past month)
ambien 10 mg daily (not for past month)

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.
Disp:*90 Tablet(s)* Refills:*0*
3. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I: Major depressive disorder, severe, recurrent
     h/o bipolar d/o NOS, r/o bipolar-II
     cocaine abuse, h/o ETOHism
II: deferred

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
 
 
Followup Instructions:
___